US08455532B2
(1) Synthesis of methyl 1-ethyl-4-fluoro-3-methylpyrazol-5-ylcarboxylate
To a flask, methyl 1-ethyl-3-methylpyrazol-5-ylcarboxylate (1.70 g, 0.010 mol, Ref. CN1626520A) was dissolved in 30 mL of acetonitrile and the selectfluor (1-chloromethyl-4-fluoro-1,4-diazabicyclo[2.2.2]octanium bis(tetrafluoroborate)) (5.30 g, 0.015 mol) was added in batches. After heating to reflux for 1.5 h, the mixture was diluted with 50 mL of water, and then extracted with ethyl acetate (3×50 mL). The combined organic layer was washed with 150 mL of saturated aqueous sodium bicarbonate solution and 150 mL of saturated brine, dried over anhydrous MgSO4 and concentrated under reduced pressure. Column chromatography (EtOAc:P.E.=1:20 as eluent) gave 0.50 g of the title compound as a yellow oil (yield 26%).

reactant | methyl 1-ethyl-3-methylpyrazol-5-ylcarboxylate | 0.010 mol, 1.70 g | C(C)N1N=C(C=C1C(=O)OC)C | C8H12N2O2
reactant | selectfluor | 0.015 mol, 5.30 g | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | water | 50 mL | O | H2O
product | methyl 1-ethyl-4-fluoro-3-methylpyrazol-5-ylcarboxylate | 0.50 g, yield 26% | C(C)N1N=C(C(=C1C(=O)OC)F)C | C8H11FN2O2
